US09376441B2
To an appropriate sized vial the trifluoroacetic acid salt of (R)-4-((R)-1-((3-cyclopropyl-6-(3-methoxy-4-(piperazin-1-yl)phenyl)-3H-imidazo[4,5-c]pyridin-4-yl)oxy)ethyl)pyrrolidin-2-one: 3.51 (80 mg, 0.085 mmol) and triethylamine (52 mg, 0.51 mmol) were dissolved in DCM (4 mL). To this mixture acetic anhydride (10.5 mg, 0.1 mmol) was added and the mixture was stirred at room temperature for 30 min. After reaction was complete the solution was concentrated under reduced pressure and the residue was purified via prep HPLC (2-65% acetonitrile in water, 0.1% trifluoroacteic acid buffer) to provide (R)-4-((R)-1-((6-(4-(4-acetylpiperazin-1-yl)-3-methoxyphenyl)-3-cyclopropyl-3H-imidazo[4,5-c]pyridin-4-yl)oxy)ethyl)pyrrolidin-2-one: 3.52 as its trifluoroacetic acid salt.

reactant | trifluoroacetic acid | FC(C(=O)O)(F)F | C2HF3O2
reactant | (R)-4-((R)-1-((3-cyclopropyl-6-(3-methoxy-4-(piperazin-1-yl)phenyl)-3H-imidazo[4,5-c]pyridin-4-yl)oxy)ethyl)pyrrolidin-2-one | C1(CC1)N1C=NC2=C1C(=NC(=C2)C2=CC(=C(C=C2)N2CCNCC2)OC)O[C@H](C)[C@@H]2CC(NC2)=O | C26H32N6O3
reactant | triethylamine | 0.51 mmol, 52 mg | C(C)N(CC)CC | C6H15N
reactant | acetic anhydride | 0.1 mmol, 10.5 mg | C(C)(=O)OC(C)=O | C4H6O3
solvent | DCM | 4 mL | C(Cl)Cl | CH2Cl2
product | (R)-4-((R)-1-((6-(4-(4-acetylpiperazin-1-yl)-3-methoxyphenyl)-3-cyclopropyl-3H-imidazo[4,5-c]pyridin-4-yl)oxy)ethyl)pyrrolidin-2-one | C(C)(=O)N1CCN(CC1)C1=C(C=C(C=C1)C1=CC2=C(C(=N1)O[C@H](C)[C@@H]1CC(NC1)=O)N(C=N2)C2CC2)OC | C28H34N6O4
